US07754737B2
(3R)-3-((S)-1-(3-chloro-2-fluorophenyl)-1-hydroxy-5-methoxypentyl)-N—((S)-3-cyclohexyl-1-(methylamino)propan-2-yl)piperidine-1-carboxamide (70 mg, 0.133 mmol) was mixed with isobutyronitrile (8 mL) and conc H2SO4 (23 drops). After stirring vigorously overnight at rt, the mixture was neutralized with K2CO3 (ca. 100 mg). A few drops of water were added and the mixture was filtered. The filtrate was concentrated and the residue was purified by preparative HPLC to afford (3R)-3-((S)-1-(3-chloro-2-fluorophenyl)-1-(isobutyramido)-5-methoxypentyl)-N—((S)-3-cyclohexyl-1-(methylamino)propan-2-yl)piperidine-1-carboxamide (11.4 mg, 14%) as a TFA salt. 1H NMR (400 MHz, CDCl3): 7.94 (s, 1H), 7.41 (td, 1H), 7.27 (td, 1H), 7.15 (t, 1H), 4.25 (d, 1H), 4.11 (m, 1H), 3.92 (d, 1H), 3.37 (t, 1H), 3.28 (s, 3H), 3.07 (dd, 1H), 2.96 (dd, 1H), 2.71 (s, 3H), 2.66 (m, 1H), 2.54 (td, 1H), 1.14 (dd, 6H). 3 min. LC-MS: R/T 1.59 min., m/z 596 (M+H+). In addition, (3R)-3-((R)-1-(3-chloro-2-fluorophenyl)-1-(isobutyramido)-5-methoxypentyl)-N—((S)-3-cyclohexyl-1-(methylamino)propan-2-yl)piperidine-1-carboxamide and (S)-3-(1-(3-chloro-2-fluorophenyl)-1-(isobutyramido)-5-methoxypentyl)-N—((S)-3-cyclohexyl-1-(methylamino)propan-2-yl)piperidine-1-carboxamide and (S)-3-(1-(3-chloro-2-fluorophenyl)-5-methoxypent-1-enyl)-N—((S)-1-cyclohexyl-3-(methylamino)propan-2-yl)piperidine-1-carboxamide were isolated.

reactant | (3R)-3-((S)-1-(3-chloro-2-fluorophenyl)-1-hydroxy-5-methoxypentyl)-N—((S)-3-cyclohexyl-1-(methylamino)propan-2-yl)piperidine-1-carboxamide | 0.133 mmol, 70 mg | ClC=1C(=C(C=CC1)[C@@](CCCCOC)(O)[C@H]1CN(CCC1)C(=O)N[C@H](CNC)CC1CCCCC1)F | C28H45ClFN3O3
reactant | isobutyronitrile | 8 mL | C(C(C)C)#N | C4H7N
reactant | K2CO3 | ca. 100 mg | C(=O)([O-])[O-].[K+].[K+]
catalyst | H2SO4 | 23 drops | OS(=O)(=O)O | H2O4S
catalyst | water | A few drops | O | H2O
product | (3R)-3-((S)-1-(3-chloro-2-fluorophenyl)-1-(isobutyramido)-5-methoxypentyl)-N—((S)-3-cyclohexyl-1-(methylamino)propan-2-yl)piperidine-1-carboxamide | 11.4 mg, 14% | ClC=1C(=C(C=CC1)[C@@](CCCCOC)(NC(C(C)C)=O)[C@H]1CN(CCC1)C(=O)N[C@H](CNC)CC1CCCCC1)F | C32H52ClFN4O3
